US05716954
To a solution of 2-(3-nitrobenzoyl)-3-methoxycarbonylpyridine (0.58 g, 2 mmoles) dissolved in ethanol (50 ml), was added hydrazine monohydrate (0.25 ml, 5.1 mmoles). The mixture was refluxed for 4 hours, cooled and ethyl acetate (50 ml) was added. The solid material was collected and dried, yielding 0.58 g of 8-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-5-one, mp 302° C.

reactant | 2-(3-nitrobenzoyl)-3-methoxycarbonylpyridine | 2 mmoles, 0.58 g | [N+](=O)([O-])C=1C=C(C(=O)C2=NC=CC=C2C(=O)OC)C=CC1 | C14H10N2O5
reactant | hydrazine monohydrate | 5.1 mmoles, 0.25 ml | O.NN
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-5-one | 0.58 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O | C13H8N4O3
